US06410550B1
B) 4-Butylamino-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester
4-Butylamino-5-nitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester (460 mg, 1.27 mmol) was treated with ammonium formate (850 mg, 12.7 mmol) and 10% Pd(OH)2/C (50 mg) in MeOH (20 mL) and brought to reflux for 1 hour then filtered through a Celite pad and concentrated. The solids were treated with saturated aqueous Na2CO3 solution, extracted with CH2Cl2 (3×30 mL) and dried by filtration through a cotton plug to give an oil (440 mg, 100% ).

reactant | 4-Butylamino-5-nitro-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 1.27 mmol, 460 mg | C(C)(C)(C)OC(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)NCCCC)[N+](=O)[O-] | C20H29N3O4
reactant | ammonium formate | 12.7 mmol, 850 mg | C(=O)[O-].[NH4+]
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd(OH)2/C | 50 mg | [OH-].[OH-].[Pd+2]
product | 4-Butylamino-5-amino-10-aza-tricyclo[6.3.1.02,7]dodeca-2(7),3,5-triene-10-carboxylic acid tert-butyl ester | 440 mg, 100% | C(C)(C)(C)OC(=O)N1CC2C=3C=C(C(=CC3C(C1)C2)NCCCC)N | C20H31N3O2
